US06638926B2
(5-Methyl-2H-pyrazol-3-yl)-(3-phenyl-isoquinolin-1-yl)-amine (V-1)
To a solution of 1-chloro-3-phenylisoquinoline (J. Het. Chem., 20, 1983, 121-128)(0.33 g, 1.37 mmol) in DMF (anhydrous, 5 mL) was added 3-amino-5-methylpyrazole (0.27 g, 2.74 mmol) and potassium carbonate (0.57 g, 4.13 mmol)and the resulting mixture was heated at reflux for 6 hours. The reaction mixture was then cooled and solvent removed in vacuo. The residue was extracted twice with ethyl acetate and the combined organic layers washed with brine, dried (MgSO4), filtered and concentrated in vacuo. The crude product was purified by flash chromatography (SiO2, gradient DCM-MeOH) to afford V-1 as a colourless oil; 1H NMR (MeOD) δ2.23 (3H, s), 5.61 (1H, s), 7.41 (1H, m), 7.52(2H, m), 7.62(1H, m), 7.81(1H, m), 8.07(1H, d), 8.19(2H, m), 8.29(1H, s), 8.54 (1H, d); MS 301.2 (M+H)+.

reactant | 1-chloro-3-phenylisoquinoline | 1.37 mmol, 0.33 g | ClC1=NC(=CC2=CC=CC=C12)C1=CC=CC=C1 | C15H10ClN
reactant | 3-amino-5-methylpyrazole | 2.74 mmol, 0.27 g | NC1=NNC(=C1)C | C4H7N3
reactant | potassium carbonate | 4.13 mmol, 0.57 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (5-Methyl-2H-pyrazol-3-yl)-(3-phenyl-isoquinolin-1-yl)-amine | CC=1C=C(NN1)NC1=NC(=CC2=CC=CC=C12)C1=CC=CC=C1 | C19H16N4
